US08138175B2
D) (S)-4-Benzyloxy-2-[4-(3,4-dichloro-phenyl)-3-methyl-7-oxo-[1,4]diazepan-1-yl]-butyric acid methyl ester
A cooled solution (0° C.) of 1.75 g (3.23 mmol) of (S)-4-benzyloxy-2-[[2-(3,4-dichloro-phenylamino)-propyl]-(3,3-dimethoxy-propionyl)-amino]-butyric acid methyl ester in 30 ml CH2Cl2 was treated with 3.71 ml (48.48 mmol) of trifluoroacetic acid and after 2 h at RT with 2.57 ml (16.16 mmol) of triethylsilane. The reaction was stirred at RT for 16 h, cooled (0° C.) and neutralized with 6.76 ml (48.48 mmol) of triethylamine. The residue was dissolved in diethyl ether and cold water. The reaction was extracted with 10% aq. KHSO4 solution/diethyl ether (3×). The organic phases were washed with sat. aq. NaHCO3 solution, dried over Na2SO4 and evaporated. Flash silica gel column (n-heptane/EtOAc 4:1→1:1) afforded 0.79 g (46%) of the title compound as a 71:29 mixture of the (R) and (S) diastereomers. Orange oil, MS: 479.1 (MH+, 2Cl).

reactant | (S)-4-benzyloxy-2-[[2-(3,4-dichloro-phenylamino)-propyl]-(3,3-dimethoxy-propionyl)-amino]-butyric acid methyl ester | 3.23 mmol, 1.75 g | COC([C@H](CCOCC1=CC=CC=C1)N(C(CC(OC)OC)=O)CC(C)NC1=CC(=C(C=C1)Cl)Cl)=O | C26H34Cl2N2O6
reactant | trifluoroacetic acid | 48.48 mmol, 3.71 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 16.16 mmol, 2.57 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | triethylamine | 48.48 mmol, 6.76 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
product | (S)-4-Benzyloxy-2-[4-(3,4-dichloro-phenyl)-3-methyl-7-oxo-[1,4]diazepan-1-yl]-butyric acid methyl ester | 0.79 g, 46% | COC([C@H](CCOCC1=CC=CC=C1)N1CC(N(CCC1=O)C1=CC(=C(C=C1)Cl)Cl)C)=O | C24H28Cl2N2O4
